US06921759B2
Step 1: Preparation of N,1-dimethyl-1H-imidazole-4-sulfonamide
To a solution of (1-methyl-1H-imidazol-4-yl)sulfonyl chloride (3.14 g, 17.4 mmol) in methylene chloride was added a solution of methylamine (26 mL of a 2M solution in THF, 52 mmol). The resulting mixture was stirred at room temperature for 16 hr. Water (25 mL) was added and the mixture was extracted with methylene chloride (2×100 mL). The combined organic extracts were washed with water (10 mL) and dried (MgSO4). The solvent was evaporated in vacuo to afford the title compound.

reactant | (1-methyl-1H-imidazol-4-yl)sulfonyl chloride | 17.4 mmol, 3.14 g | CN1C=NC(=C1)S(=O)(=O)Cl | C4H5ClN2O2S
reactant | methylamine | CN | CH5N
reactant | Water | 25 mL | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
product | N,1-dimethyl-1H-imidazole-4-sulfonamide | CNS(=O)(=O)C=1N=CN(C1)C | C5H9N3O2S
